US08497278B2
1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(2-(dimethylamino)ethylamino)-1H-pyrrol-2(5H)-one (237)
To a mixture of 100 mg of 1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-methoxy-1H-pyrrol-2(5H)-one (0.251 mmol, 1 eq) in 1 mL of N,N-dimethylethane-1,2-diamine in a sealed tube, one drop of HCl was added. The solution was heated at 140° C., O/N. The mixture was then diluted with EtOAc, washed with an excess of NaHCO3 (aq, sat), dried on MgSO4, filtered and concentrated. The crude was purified on silica gel chromatography (MeOH:NH4OH (95:5)/EtOAc, 0 to 15%). The product was then washed with ether to give a white solid. (37 mg, 32%) m/e+=410 (M+H+). 1H-NMR (400 MHz, CDCl3, δ): 8.51 (d, 1H, D, J=6.6 Hz), 7.72 (d, 2H, D, J=8.6 Hz), 7.61 (d, 1H, D, J=9.2 Hz), 7.45 (d, 2H, D, J=8.4 Hz), 7.24 (t, 1H, D, J=8.8 Hz), 6.85 (t, 1H, D, J=6.4 Hz), 5.06 (s, 2H), 4.89 (m, 1H), 4.67 (s, 1H), 3.56 (s, 2H), 2.99 (m, 2H), 2.42 (m, 2H), 2.15 (s, 6H).

reactant | 1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-methoxy-1H-pyrrol-2(5H)-one | 0.251 mmol, 100 mg, 1 eq | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1C(C=C(C1)OC)=O | C19H16ClN3O2
solvent | N,N-dimethylethane-1,2-diamine | 1 mL | CN(CCN)C | C4H12N2
catalyst | HCl | one drop | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(2-(dimethylamino)ethylamino)-1H-pyrrol-2(5H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1C(C=C(C1)NCCN(C)C)=O | C22H24ClN5O
